US06593325B1
2-Benzyloxy-8-phenyl-6H-pyrido[2,3-d]pridazin-5-one (845 mg) was stirred in phosphorus oxychloride (30 ml) at reflux for 4 h. The solvent was removed in vacuo and the residue was purified by flash chromatography on silica gel, eluting with ethyl acetate, yielding 2-benzyloxy-5-chloro-8-phenylpyrido[2,3-d]pyridazine as a pale yellow solid (950 mg). 1H NMR (400 MHz, DMSO) δ5.50 (2H, s), 7.35 (5H, m), 7.58 (3H, m), 7.65 (1H, d, J=9.0 Hz), 8.06 (2H, m), 8.60 (1H, d, J=9.0 Hz); MS (ES+) m/e 348, 350 [MH]+.

reactant | 2-Benzyloxy-8-phenyl-6H-pyrido[2,3-d]pridazin-5-one | 845 mg | C(C1=CC=CC=C1)OC=1C=CC2=C(C(=NNC2=O)C2=CC=CC=C2)N1 | C20H15N3O2
reactant | phosphorus oxychloride | 30 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-benzyloxy-5-chloro-8-phenylpyrido[2,3-d]pyridazine | 950 mg | C(C1=CC=CC=C1)OC=1C=CC=2C(=C(N=NC2Cl)C2=CC=CC=C2)N1 | C20H14ClN3O
